US07820670B2
Step A: 3-Bromo-N-(3-methoxypropyl)imidazo[1,2-b]pyridazin-6-amine
Prepared from 3-bromo-6-chloroimidazo[1,2-b]pyridazine and 3-methoxypropylamine according to general procedure 1 providing the intermediate (43 mg, 54%) as a clear oil: Rf=0.55 (CH2Cl2/MeOH/NH4OH, 160:18:2); 1H NMR (500 MHz, CD3OD) δ 7.53 (d, J=9.6 Hz, 1H), 7.39 (s, 1H), 6.68 (d, J=9.7 Hz, 1H), 3.53 (t, J=6.2 Hz, 2H), 3.44 (t, J=6.9 Hz, 2H), 3.36 (s, 3H), 1.95 (quin, J=6.5 Hz, 2H).

reactant | 3-bromo-6-chloroimidazo[1,2-b]pyridazine | BrC1=CN=C2N1N=C(C=C2)Cl | C6H3BrClN3
reactant | 3-methoxypropylamine | COCCCN | C4H11NO
reactant | CH2Cl2 MeOH NH4OH | C(Cl)Cl.CO.[NH4+].[OH-]
product | 3-Bromo-N-(3-methoxypropyl)imidazo[1,2-b]pyridazin-6-amine | BrC1=CN=C2N1N=C(C=C2)NCCCOC | C10H13BrN4O
